US07737149B2
N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-4-(3,3-dimethylpiperazin-1-yl)benzamide
A 2M solution of trimethylaluminium in toluene (0.691 mL, 1.38 mmol) was added dropwise to a stirred solution of ethyl 4-(3,3-dimethylpiperazin-1-yl)benzoate (145 mg, 0.55 mmol) and 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine (138 mg, 0.55 mmol) in toluene (5 mL) at 20° C., over a period of 5 mins under nitrogen. The resulting solution was stirred at 20° C. for 24 h. This was diluted with acetone (25 ml) and an excess of damp solid sodium sulphite was added. The mixture was stirred for 1 h and the solid filtered off. The solid was washed with 10% MeOH/DCM and the combined organics evaporated to dryness. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (27.0 mg, 10.49%) as a colourless gum.

reactant | trimethylaluminium | C[Al](C)C
reactant | ethyl 4-(3,3-dimethylpiperazin-1-yl)benzoate | 0.55 mmol, 145 mg | CC1(CN(CCN1)C1=CC=C(C(=O)OCC)C=C1)C | C15H22N2O2
reactant | 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine | 0.55 mmol, 138 mg | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)N | C12H15N3O3
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | toluene | 1.38 mmol, 0.691 mL | C1(=CC=CC=C1)C | C7H8
product | N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-4-(3,3-dimethylpiperazin-1-yl)benzamide | 27.0 mg, 10.49% | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)NC(C1=CC=C(C=C1)N1CC(NCC1)(C)C)=O | C25H31N5O4
